US07585881B2
4-[5-(chloromethyl)-4-methyl-4H-1,2,4-triazol-3-yl]pyridine
Sulfuryl dichloride (0.58 ml, 8.34 mmol) in DCM (8 ml) was slowly added to a cooled (−10° C.) solution of 4-(4,5-dimethyl-4H-1,2,4-triazol-3-yl)pyridine (454 mg, 2.61 mmol) in DCM (25 ml) and DMF (8 ml) and then the solution was stirred for 2 h. NaHCO3 (sat.) was added and the mixture was extracted with EA. The organic phase was dried and concentrated. Recrystallization from EA afforded 124 mg (23%) of the title compound. 1H NMR: 3.83 (s, 3 H) 4.84 (s, 2 H) 7.62 (d, 2 H) 8.82 (d, 2 H).

reactant | Sulfuryl dichloride | 8.34 mmol, 0.58 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 4-(4,5-dimethyl-4H-1,2,4-triazol-3-yl)pyridine | 2.61 mmol, 454 mg | CN1C(=NN=C1C)C1=CC=NC=C1 | C9H10N4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 4-[5-(chloromethyl)-4-methyl-4H-1,2,4-triazol-3-yl]pyridine | 124 mg, 23% | ClCC=1N(C(=NN1)C1=CC=NC=C1)C | C9H9ClN4
